US08022062B2
7-Chloro-6-(2-methylthiazol-4-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 332, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 4-chloromethyl-2-methylthiazole hydrochloride to give, after deprotection by the General Procedure 1-4, the title compound as a white solid. MS (APCI+) m/z: 325 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 4-chloromethyl-2-methylthiazole hydrochloride | Cl.ClCC=1N=C(SC1)C
product | 7-Chloro-6-(2-methylthiazol-4-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC=1N=C(SC1)C | InChI=1S/C15H17ClN2S2.ClH/c1-10-18-12(8-19-10)9-20-15-13-5-7-17-6-4-11(13)2-3-14(15)16;/h2-3,8,17H,4-7,9H2,1H3;1H
